US07851484B2
5-Chloro-3-fluoro-4-iodopicolinonitrile.
To a cooled (−78° C.) solution of LDA (34.9 mmol, 1.1 equiv) in dry THF (200 mL) was added dropwise 5-chloro-3-fluoropicolinonitrile (5 g, 31.9 mmol) in dry THF (100 mL) over 15 minutes. The resulting mixture was stirred at −78° C. for an additional 15 minutes. A cooled (−78° C.) solution of iodine (12 g, 47 mmol, 1.5 equiv) in dry THF (72 mL) was poured rapidly into the reaction, and the resulting mixture was removed from the cold bath and stirred for 20s. The reaction was then quenched by the addition of saturated aq. NaS2O3. The reaction mixture was diluted with ethyl acetate, and organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Silica gel chromatography (5% EtOAc, 95% hexanes) provided the title compound as a yellow solid (7.4 g, 82%) which was characterized by HNMR.

reactant | LDA | 34.9 mmol, 1.1 equiv | [Li+].CC(C)[N-]C(C)C
reactant | 5-chloro-3-fluoropicolinonitrile | 31.9 mmol, 5 g | ClC=1C=C(C(=NC1)C#N)F | C6H2ClFN2
reactant | iodine | 47 mmol, 12 g, 1.5 equiv | II | I2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 72 mL | C1CCOC1 | C4H8O
product | 5-Chloro-3-fluoro-4-iodopicolinonitrile | 7.4 g, 82% | ClC=1C(=C(C(=NC1)C#N)F)I | C6HClFIN2
